US05576340
Methyl 3-hydroxy-4-(2-oxopropoxy)phenylacetate
Following a procedure similar to that described in Preparation 21, but using 10 g of 3,4-dihydroxyphenylacetic acid, 30 ml of absolute methanol, 20 ml of a 4N solution of hydrogen chloride in dioxane, 200 ml of anhydrous dimethylformamide, 8.74 g of bromoacetone and 8.02 g of potassium carbonate, the title compound was obtained having an Rf=0.37 (thin layer chromatography over silica gel, using a 1:2 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 3,4-dihydroxyphenylacetic acid | 10 g | OC=1C=C(C=CC1O)CC(=O)O | C8H8O4
reactant | hydrogen chloride | Cl | ClH
reactant | bromoacetone | 8.74 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 8.02 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | methanol | 30 ml | CO | CH4O
product | Methyl 3-hydroxy-4-(2-oxopropoxy)phenylacetate | OC=1C=C(C=CC1OCC(C)=O)CC(=O)OC | C12H14O5
